US06169088A
To a solution of 1.08 g (3.75 mmol) of 7-ethylamino-6-nitro-4-(1-piperazinyl)quinazoline in 20 ml of dichloromethane were added 2.61 ml (18.7 mmol) of triethylamine and 1.33 ml (5.79 mmol) of di-tert-butyl dicarbonate under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was concentrated and then purified by silica gel chromatography to give 1.39 g (92%) of 4-(7-ethylamino-6-nitro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester.

reactant | 7-ethylamino-6-nitro-4-(1-piperazinyl)quinazoline | 3.75 mmol, 1.08 g | C(C)NC1=C(C=C2C(=NC=NC2=C1)N1CCNCC1)[N+](=O)[O-] | C14H18N6O2
reactant | triethylamine | 18.7 mmol, 2.61 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.79 mmol, 1.33 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(7-ethylamino-6-nitro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | 1.39 g, 92% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])NCC | C19H26N6O4
